US04725610
60% sodium hydride in oil (1.32 g) was added to solution of 5-(4-hydroxybenzyl)-2,4-thiazolidinedione (3.35 g) in N,N-dimethylformamide (30 ml), and the mixture was stirred for 30 minutes. Then, solution of 4-chloromethyl-2-(1-methylcyclohexyl)oxazole (3.85 g) in N,N-dimethylformamide (5 ml) was added dropwise thereto at room temperature. After being stirred at 60° C. for 1 hour, the reaction solution was poured into water, and the aqueous mixture was extracted with ethyl acetate. The ethyl acetate layer was washed with water, dried (MgSO4) and concentrated. The oily residue was chromatographed on a column of silica gel (70 g). Elution with hexaneethyl acetate (2:1, V/V) gave 5-{4-[2-(1-methylcyclohexyl)-4-oxazolylmethoxy]benzyl}-2,4-thiazolidinedione as an oily substance. A solution of sodium 2-ethylhexanoate in isopropanol (2N, 3 ml) was added to the oily substance, and treated with ether. The crystals which separated out were collected by filtration to give 5- {4-[2-(1-methylcyclohexyl)-4-oxazolylmethoxy]benzyl}-2,4-thiazolidinedione.sodium salt (2.3 g, 36.3%). Recrystallization from methanol afforded colorless plates. m.p. 285°-287° C. (decomp.) Elemental analysis for C21H23N2O4SNa, Calcd.: C, 59.70; H, 5.49; N, 6.63. Found: C, 59.76; H, 5.56; N, 6.82.

reactant | sodium hydride | [H-].[Na+]
reactant | 5-(4-hydroxybenzyl)-2,4-thiazolidinedione | 3.35 g | OC1=CC=C(CC2C(NC(S2)=O)=O)C=C1 | C10H9NO3S
reactant | 4-chloromethyl-2-(1-methylcyclohexyl)oxazole | 3.85 g | ClCC=1N=C(OC1)C1(CCCCC1)C | C11H16ClNO
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | 5-{4-[2-(1-methylcyclohexyl)-4-oxazolylmethoxy]benzyl}-2,4-thiazolidinedione | CC1(CCCCC1)C=1OC=C(N1)COC1=CC=C(CC2C(NC(S2)=O)=O)C=C1 | C21H24N2O4S
